US06194409B1
40e. (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride
To a solution of 594 mg of tert-butyl (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid in 8 mL of dioxane was added 3 mL 36% hydrochloric acid and stirred at room temperature for two hours. The solution was concentrated and trituration of the residue with diethyl ether yielded 560 mg of the title compound. HPLC Supelcosil LC-18-DB column using a gradient elution system of 20% A/80% B to 20% A/20% B/60% C over 40 min at a flow of 0.25 ml/min (A: 0.5M phosphate buffer pH 2.1, B: water, C acetonitril/water 3/2 v/v). Rt=22.4 min.

reactant | tert-butyl (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid | 594 mg | C(C)(C)(C)[C@@H](C(=O)O)OC1CCN(CC1)C(C(C)NC(=O)C=1C=C2C=CN=C(C2=CC1)N)=O | C24H32N4O5
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride | 560 mg | Cl.NC1=NC=CC2=CC(=CC=C12)C(=O)N[C@H](C(=O)N1CCC(CC1)OCC(=O)O)C | InChI=1S/C20H24N4O5.ClH/c1-12(20(28)24-8-5-15(6-9-24)29-11-17(25)26)23-19(27)14-2-3-16-13(10-14)4-7-22-18(16)21;/h2-4,7,10,12,15H,5-6,8-9,11H2,1H3,(H2,21,22)(H,23,27)(H,25,26);1H/t12-;/m0./s1
